US06313117B1
(f) N-{1-[(benzyl-methyl-amino)-methyl]-1-cyano-3-phenyl-propyl}-2-cyclohexylmethyl-4-morpholin-4-yl-oxo-butyramide
2-Cyclohexylmethyl-4-morpholin-4-yl-oxo-butanoic acid (0.097 g, 0.34 mmol, 1.0 equiv) was dissolved in 10 mL of CH2Cl2 followed by addition of EDC (0.065 g, 0.34 mmol, 1.0 equiv). The solution was stirred for 15 min at which time a solution of 2-amino-2-[(benzyl-methyl-amino)-methyl]-4-phenyl-butyronitrile (0.10 g, 0.34 mmol, 1.0 equiv) in 5 mL of CH2Cl2 was added followed by N-methylmorpholine (0.137 g, 1.36 mmol, 4.0 equiv). The resulting solution was stirred at room temperature for 72 h. The volatiles were removed in vacuo and the residue was redissolved in 100 mL of EtOAc and the solution was washed 2×25 mL brine. The organic layer was evaporated to dryness and the crude product was purified by semi-prep reverse-phase HPLC using 40% CH3CN in water to 90% over a time of 25 min. The appropriate fractions were combined and concentrated to yield the desired product as a thick oil (0.047 g, 25%); MS, m/z 559=M+1.

reactant | 2-Cyclohexylmethyl-4-morpholin-4-yl-oxo-butanoic acid | 0.34 mmol, 0.097 g, 1.0 equiv | C1(CCCCC1)CC(C(=O)O)C(CN1CCOCC1)=O | C15H25NO4
reactant | EDC | 0.34 mmol, 0.065 g, 1.0 equiv
reactant | 2-amino-2-[(benzyl-methyl-amino)-methyl]-4-phenyl-butyronitrile | 0.34 mmol, 0.10 g, 1.0 equiv | NC(C#N)(CCC1=CC=CC=C1)CN(C)CC1=CC=CC=C1 | C19H23N3
reactant | N-methylmorpholine | 1.36 mmol, 0.137 g, 4.0 equiv | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-{1-[(benzyl-methyl-amino)-methyl]-1-cyano-3-phenyl-propyl}-2-cyclohexylmethyl-4-morpholin-4-yl-oxo-butyramide | 0.047 g, 25% | C(C1=CC=CC=C1)N(C)CC(CCC1=CC=CC=C1)(C#N)NC(C(C(CN1CCOCC1)=O)CC1CCCCC1)=O | C34H46N4O3
